US06617351B1
Preparation of N-2-Methylpropyl-2-(4-(3-thienyl)phenyl)propionamide
To a solution of N-2-methylpropyl-2-(4-bromophenyl)2-methylacetamide 1.1 g (3.9 mmol, part B above), 0.7 g (5.8 mmol) of thiophene-3-boronic acid and 0.8 g (5.8 mmol) of potassium carbonate in 12 mL of 3:1 dioxane/water was added 0.2 g (0.2 mmol) of tetrakis(triphenylphosphine)palladium. The mixture was heated to reflux for 16 hours, cooled and diluted with 10 mL of water. The mixture was extracted three times with 10 mL each of dichloromethane. The combined organics were dried (Na2SO4), filtered and concentrated in vacuo. Chromatography (65 g of silica gel, 35% ethyl acetate/hexanes) of the residue afforded 0.3 g (31%) of the final title compound.

reactant | N-2-methylpropyl-2-(4-bromophenyl)2-methylacetamide | 3.9 mmol, 1.1 g | CC(CNC(C(C)C1=CC=C(C=C1)Br)=O)C | C13H18BrNO
reactant | thiophene-3-boronic acid | 5.8 mmol, 0.7 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 5.8 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane water | 12 mL | O1CCOCC1.O
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.2 mmol, 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-2-Methylpropyl-2-(4-(3-thienyl)phenyl)propionamide | 0.3 g, 31% | CC(CNC(C(C)C1=CC=C(C=C1)C1=CSC=C1)=O)C | C17H21NOS
